US07572820B2
4-(Trifluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 2-(bromomethyl)-5-(trifluoromethyl)furan: MS (ES) m/z 359 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 4-(Trifluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile | FC(C1=C2C=CN(C2=CC=C1C#N)CC=1OC(=CC1)C(F)(F)F)(F)F | C16H8F6N2O
